US08227428B2
Diethylaminoacetic Acid
A solution of chloroacetic acid (30 g, 0.32 mol) in diethylamine (230 mL, 2.2 mol) was stirred overnight. The obtained white precipitate was removed by filtration. The filtrate was evaporated to dryness to afford yellow oil to which EtOAc (300 mL) was added. The obtained precipitate was again removed by filtration. The filtrate was evaporated to afford yellow solid residue (44 g) that was washed with hexane (2×100 mL), EtOAc (2×50 mL) and again with hexane (50 mL), and then dried in vacuo to afford title Intermediate 2 (38 g).

reactant | chloroacetic acid | 0.32 mol, 30 g | ClCC(=O)O | C2H3ClO2
reactant | diethylamine | 2.2 mol, 230 mL | C(C)NCC | C4H11N
product | Diethylaminoacetic Acid | 44 g | C(C)N(CC)CC(=O)O | C6H13NO2
